US06680401B1
2-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenol
A solution of pinacol (11.29 g; 0.0955 mol) in dry dioxane (40 ml) was added dropwise, over an hour, to a solution of borane-methyl sulphide complex (9.0 ml; 10M; 0.090 mol) in dioxane (40 ml) and stirred at RT under N2. To this solution was added HB(pin) (22.0 ml; 0.152 mol) and 2-methoxy-5-bromophenol (19.63 g; 0.0967 mol) in dioxane (30 ml). This solution was allowed to stir overnight at room temperature before being added, dropwise, to the activated catalyst [PdCl2(dppf)CH2Cl2 (2.38 g; 2.91 mmol) and NEt3 (40.0 ml; 0.287 mol) in dry dioxane (450 ml) heated at 80° C. and allowed to cool to RT]. The reaction mixture was heated at 100° C. GC analysis after 18 hours showed the desired borate compound at 12.0 minutes.

reactant | pinacol | 0.0955 mol, 11.29 g | OC(C)(C)C(C)(C)O | C6H14O2
reactant | 2-methoxy-5-bromophenol | 0.0967 mol, 19.63 g | COC1=C(C=C(C=C1)Br)O | C7H7BrO2
reactant | NEt3 | 0.287 mol, 40.0 ml | CCN(CC)CC | C6H15N
reactant | borate | B([O-])([O-])[O-]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 450 ml | O1CCOCC1 | C4H8O2
product | 2-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenol | COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
